US08192918B2
5.326 g (40 mmol) 2-aminobenzimidazole and 4.56 g (40 mmol) ethyl methacrylate were dissolved in 25 ml Proglyde DMM. The reactionmixture is heated to 130° C. The reaction is allowed to continue for 7 hours at 130° C. The reactionmixture is allowed to cool down to room temperature and is added to 250 ml tert-butyl methyl ether. The precipitated 3,4-dihydro-3-methyl-pyrimidino[1,2-a]benzimidazol-2(1H)-one was isolated by filtration and recrystallized from 1-methoxy-2-propanol. 2.7 g (33%) of 3,4-dihydro-3-methyl-pyrimidino[1,2-a]benzimidazol-2(1H)-one was isolated (m.p. >260° C.).

reactant | 2-aminobenzimidazole | 40 mmol, 5.326 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | ethyl methacrylate | 40 mmol, 4.56 g | C(C(=C)C)(=O)OCC | C6H10O2
solvent | tert-butyl methyl ether | 250 ml | COC(C)(C)C | C5H12O
product | 3,4-dihydro-3-methyl-pyrimidino[1,2-a]benzimidazol-2(1H)-one | CC1C(NC2=NC3=C(N2C1)C=CC=C3)=O | C11H11N3O
